US07799787B2
6-{4-[2-(Trifluoromethyl)phenoxy]piperidin-1-yl}pyridazine-3-carbonitrile
To a solution of 6-{4-[2-(trifluoromethyl)phenoxy]piperidin-1-yl}pyridazine-3-carboxamide (1.35 g, 3.69 mmol) and pyridine (1.49 mL, 18.43 mmol) in 1,4-dioxane (30 mL) at 0° C. was added trifluoroacetic anhydride (1.04 mL, 7.37 mmol). The mixture was warmed to room temperature and stirred for 2 days. Aqueous saturated NaHCO3 and ethyl acetate were added. The layers were separated and the aqueous phase was extracted four times with ethyl acetate. The combined organic extracts were washed with brine, dried (NaSO4) and concentrated. Purification by silica gel chromatography (gradient 60% ethyl acetate:hexanes to 100% ethyl acetate) provided the title compound. 1H NMR (acetone-d6) δ 7.75 (1H, d, J=9.6 Hz), 7.68-7.62 (2H, m), 7.37 (2H, dd, J=8.4, 13.9 Hz), 7.13 (1H, t, J=7.6 Hz), 5.08-5.04 (1H, m), 4.06-4.02 (4H, m), 2.20-2.14 (2H, m), 2.00-1.94 (2H, m).

reactant | 6-{4-[2-(trifluoromethyl)phenoxy]piperidin-1-yl}pyridazine-3-carboxamide | 3.69 mmol, 1.35 g | FC(C1=C(OC2CCN(CC2)C2=CC=C(N=N2)C(=O)N)C=CC=C1)(F)F | C17H17F3N4O2
reactant | pyridine | 18.43 mmol, 1.49 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | 7.37 mmol, 1.04 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-{4-[2-(Trifluoromethyl)phenoxy]piperidin-1-yl}pyridazine-3-carbonitrile | FC(C1=C(OC2CCN(CC2)C2=CC=C(N=N2)C#N)C=CC=C1)(F)F | C17H15F3N4O
